US05081131
N-(7-(1H-imidazole-1-yl)heptyl)benz(cd)indol-2-amine
A mixture consisting of 5.0 grams of 2-methylthiobenz(cd)indol-2-amine hydriodide, 2.8 grams of 7-(1H-imidazol-1-yl)heptylamine, and 75 ml of ethanol as stirred and heated under reflux for 16 hours. After addition of 20 ml of 1N NaOH solution, the reaction mixture was taken to dryness in vacuo. The residue was partitioned between 150 ml of dichloromethane and 100 ml of water. A solid appeared at the interface. It was collected by filtration, added to the dichloromethane filtrate, and the mixture taken to dryness in vacuo. The residual orange oil was dissolved in 100 ml of acetone and added to a stirred boiling solution of 3.5 grams of fumaric acid in 800 ml of acetone. The resultant yellow precipitate was collected, washed with acetone, and dissolved in 200 ml of hot water. The solution was clarified by treatment with activated charcoal. The clear aqueous solution was cooled and made basic with 0.5 N NaOH solution. The resultant orange precipitate was collected, washed with water and dried in vacuo at room temperature. The yield of the title compound was 2.2 grams, and the mp was 48° C.-50° C.

reactant | 2-methylthiobenz(cd)indol-2-amine hydriodide | 5.0 grams | I.CSC1(NC2=CC=CC=3C2=C1C=CC3)N
reactant | 7-(1H-imidazol-1-yl)heptylamine | 2.8 grams | N1(C=NC=C1)CCCCCCCN | C10H19N3
reactant | NaOH | 1N, 20 ml | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N-(7-(1H-imidazole-1-yl)heptyl)benz(cd)indol-2-amine | N1(C=NC=C1)CCCCCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C21H24N4
